US07419984B2
6-[5-Bromo-2-(4-nitro-benzyloxy)-phenyl]-N*4*-(4-chloro-phenyl)-pyrimidine-2,4-diamine
Following the method described in Example 4, 6-[5-bromo-2-(4-nitro-benzyloxy)-phenyl]-6-chloro-pyrimidin-2-ylamine and 4-chloro-phenylamine provided the title compound (82% yield) as its hydrochloride salt. 1H NMR (DMSO-d6) δ 5.42 (s, 2H, CH2), 6.55 (s, 1H, Ar), 7.29 (d, 1H, J=9.4 Hz, Ar), 7.45 (d, 2H, J=8.8 Hz, Ar), 7.72-7.84 (m, 6H, Ar), 8.24 (d, 2H, J=8.7 Hz, Ar).

reactant | 6-[5-bromo-2-(4-nitro-benzyloxy)-phenyl]-6-chloro-pyrimidin-2-ylamine | BrC=1C=CC(=C(C1)C1(C=CN=C(N1)N)Cl)OCC1=CC=C(C=C1)[N+](=O)[O-] | C17H14BrClN4O3
reactant | 4-chloro-phenylamine | ClC1=CC=C(C=C1)N | C6H6ClN
product | 6-[5-Bromo-2-(4-nitro-benzyloxy)-phenyl]-N*4*-(4-chloro-phenyl)-pyrimidine-2,4-diamine | 82% yield | BrC=1C=CC(=C(C1)C1=CC(=NC(=N1)N)NC1=CC=C(C=C1)Cl)OCC1=CC=C(C=C1)[N+](=O)[O-] | C23H17BrClN5O3
